US09102616B2
Intermediate 1: Synthesis of (4-Bromo-2-nitrobiphenyl)
A 500 mL round bottom flask was charged with toluene (250 mL), phenyl boronic acid (10 g, 82 mmol), 2,5-dibromonitrobenzene (23.1 g, 82.3 mmol), Pd(PPh3)4 (2.8 g, 2.5 mmol), and 2M Na2CO3 aqueous solution (124 mL). Then, at 90° C., the mixture was heated under reflux for 6 hours. After the reaction was completed, the resultant product was diluted with addition of distilled water at room temperature. Then, the resultant product was extracted with methylene chloride and water. The organic layer was dried with MgSO4, and concentrated. Then, the produced compound was purified by silica gel column (methylene chloride:hexane=1:1) to give 19.2 g of a product (84.2%).

reactant | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
reactant | phenyl boronic acid | 82 mmol, 10 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | 2,5-dibromonitrobenzene | 82.3 mmol, 23.1 g | BrC1=C(C=C(C=C1)Br)[N+](=O)[O-] | C6H3Br2NO2
reactant | Na2CO3 | 2M, 124 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 2.5 mmol, 2.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-Bromo-2-nitrobiphenyl | 19.2 g, 84.2% | BrC1=CC(=C(C=C1)C1=CC=CC=C1)[N+](=O)[O-] | C12H8BrNO2
